US08134001B2
Preparation of intermediate 2-(4-methoxy-phenyloxy)-5-fluoro-benzaldehyde
In a similar manner to the method described in Example 140a, 2,4-difluoro-benzaldehyde (Aldrich) was reacted with 4-methoxy-phenol and potassium carbonate to give a solid. MS (H+), 247.

reactant | 2,4-difluoro-benzaldehyde | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 4-methoxy-phenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-(4-methoxy-phenyloxy)-5-fluoro-benzaldehyde | COC1=CC=C(C=C1)OC1=C(C=O)C=C(C=C1)F | C14H11FO3
